US06294558B1
2-(4-Bromophenyl)-1-(4-methylthiophenyl)ethanone
4-Bromophenylacetic acid (10.8 g, 0.050 mol) was disolved in thionyl chloride (50 mL) and stirred for 30 min at 90° C. The mixture was concentrated and the residual oil was disolved in carbon disulfide (100 mL) and thioanisole (12.5 g, 0.10 mol) was added and the mixture was cooled to 0° C. and AlCl3 (14.7 g, 0.11 mol) was added portionwise. The mixture was stirred at room temperature for 16 h. The resultant dark green suspension was poured into ice water (150 mL) and extracted with CH2Cl2 (150 mL×2), washed with aqueous saturated NaHCO3 (50 mL), dried over MgSO4, and concentarted in vacuo gave the solid. The solid was suspended in ether and collected by filtration to give the title compound (8.4 g, 46%).

reactant | 4-Bromophenylacetic acid | 0.050 mol, 10.8 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | thioanisole | 0.10 mol, 12.5 g | C1(=CC=CC=C1)SC | C7H8S
reactant | AlCl3 | 0.11 mol, 14.7 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | thionyl chloride | 50 mL | S(=O)(Cl)Cl | Cl2OS
solvent | ether | CCOCC | C4H10O
product | 2-(4-Bromophenyl)-1-(4-methylthiophenyl)ethanone | 8.4 g, 46% | BrC1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)SC | C15H13BrOS
